Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Keflex
 
Attending: ___.
 
Chief Complaint:
Confusion 
 
Major Surgical or Invasive Procedure:
NONE 

 
History of Present Illness:
Mr. ___ is a ___ man with a history of alcoholic
cirrhosis complicated by ascites s/p TIPS (___) and hepatic
encephalopathy who presents with confusion. 

His wife noted confusion 2 days prior to admission. She 
described
him trying to put shoes on the wrong feet, putting shoes on when
they were already on, walking into the wrong room and not 
knowing
where he is and confusion about the date. He also had two
episodes of nonbloody, nonbilious vomiting over the past 5 days.
His other complaint is increasing fatigue. He denied any fever 
or
abdominal pain, no increased abdominal distention, constipation,
diarrhea, melena, or hematochezia. 

- In the ED, initial vitals were:
T 98.9F HR 91 BP 141/85 RR 18 O2 95% RA 

- Exam was notable for:
"General-sleeping, frequently yawning, comfortable appearing.
Abdomen soft, nontender, mildly distended, no guarding, rebound
or masses, no tappable pocket of ascites. AxOx2, unable to say
the date, moderate asterixis." 

- Labs were notable for:
WBC 6.4 Hgb 13.9 Plt 85
BMP unremarkable apart from glucose of 183
ALT 13 AST 26 Alk phos 99 T bili 1.7 
INR 1.3 

- Studies were notable for:
CXR 
No acute cardiopulmonary process.

Liver US with doppler
1. Patent TIPS.
2. Coarsened liver consistent with known cirrhosis. No 
concerning
liver lesions. Splenomegaly and trace ascites.
3. Cholelithiasis without evidence of acute cholecystitis.

CT head without contrast 
No acute intracranial process.

- The patient was given:
Nothing, no lactulose. 

- Hepatology were consulted: asterixis positive, no clear
aggrevating factor. Admit to ET. Obtain RUQ US with doppler,
blood culture, UA, CXR, lactulose, CT head.

On arrival to the floor, he reports ongoing confusion. He is
alert and oriented only to himself and hospital. He thinks he is
here for dizziness and that it is ___. He says that he has not
been taking his lactulose. He denies any fevers/chills, chest
pain, shortness of breath, abdominal pain,
nausea/vomiting/diarrhea. 

 
Past Medical History:
Child's C alcoholic cirrhosis
Esophageal varices requiring banding
HRS
Previous bacterial meningitis
Gastroesophageal reflux disease
Hyperlipidemia
Alcohol abuse now in remission
Depression
Remote history of seizure
Large scrotal hernia
Previous hernia complicated by small-bowel obstruction, 
requiring emergent surgery  
 
Social History:
___
Family History:
His brother had cardiac valve replacement.  No GI cancers in the 
family.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
#ERROR!
___ 0549 Temp: 99.5 PO BP: 134/79 R Lying HR: 50 RR: 19 O2
sat: 94% O2 delivery: RA 
GENERAL: Alert and pleasant. Oriented to self and hospital, not
time. 
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
NEUROLOGIC: CN2-12 intact. Moving all 4 limbs spontaneously.
Asterixis present. 

DISCHARGE PHYSICAL EXAMINATION: 
#ERROR!
    Temp: 98.4 (Tm 99.2), BP: 136/75 (129-149/75-85), HR: 76
(62-76), RR: 18, O2 sat: 96% (94-98), O2 delivery: Ra  
GENERAL: Alert and pleasant. AOx3. 
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
NEUROLOGIC: CN2-12 intact. Moving all 4 limbs spontaneously. No
Asterixis today. 
 
Pertinent Results:
ADMISSION LABS: 
#ERROR!
___ 09:36PM BLOOD WBC-6.4 RBC-4.45* Hgb-13.9 Hct-42.0 
MCV-94 MCH-31.2 MCHC-33.1 RDW-13.5 RDWSD-46.0 Plt Ct-85*
___ 09:36PM BLOOD ___ PTT-31.8 ___
___ 09:36PM BLOOD Glucose-183* UreaN-13 Creat-1.1 Na-143 
K-4.1 Cl-104 HCO3-23 AnGap-16
___ 09:36PM BLOOD ALT-13 AST-26 AlkPhos-99 TotBili-1.7*
___ 04:17AM BLOOD Albumin-4.2 Calcium-10.1 Phos-3.7 Mg-2.0
___ 01:10AM BLOOD Ammonia-57

DISCHARGE LABS: 
#ERROR!
___ 04:17AM BLOOD WBC-7.5 RBC-4.73 Hgb-14.8 Hct-45.1 MCV-95 
MCH-31.3 MCHC-32.8 RDW-13.6 RDWSD-47.6* Plt ___
___ 04:17AM BLOOD ___ PTT-38.2* ___
___ 04:17AM BLOOD Glucose-150* UreaN-15 Creat-1.1 Na-148* 
K-4.0 Cl-111* HCO3-23 AnGap-14
___ 04:17AM BLOOD ALT-16 AST-31 AlkPhos-99 TotBili-2.0*
___ 04:17AM BLOOD Albumin-4.2 Calcium-10.1 Phos-3.7 Mg-2.0

MICROBIOLOGY:
#ERROR!
                            **FINAL REPORT ___
   REFLEX URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 1:17 am BLOOD CULTURE
   Blood Culture, Routine (Pending):    No growth to date. 
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of alcoholic 
cirrhosis complicated by ascites s/p TIPS (___) and hepatic 
encephalopathy who presents with confusion. 

ACUTE/ACTIVE ISSUES:
#ERROR!
# Altered mental status: 
# Hepatic encephalopathy:
Patient presents with several days of confusion and asterixis 
representing hepatic encephalopathy. WBC within normal limits, 
UA and blood cultures were negative. RUQUS showed patent TIPS 
with trace ascites (no tapable pocket). Wife mentions that 
___ has not been taking lactulose regularly. While admitted, 
patient received lactulose Q2H with subsequent improvement in 
his mental status within 24 hours. On discharge, patient was 
AOx3 without asterixis. Patient was discharged on lactulose 30ml 
TID and rifaximin 550 mg PO BID. 

# Alcoholic cirrhosis 
Meld-Na: 8. Complicated by ascites s/p TIPS, SBP and hepatic 
encephalopathy. 
- ASCITES: TIPS (___), continue home furosemide 40 and 
spironolactone 75. 
- HE: as above 
- SBP: continue home Bactrim DS for ppx 
- Varices: last EGD here in ___ without varices 
- Nutrition: continue folic acid, multivitamin, and thiamine 

CHRONIC/STABLE ISSUES:
#ERROR!
# History of alcohol use disorder: 
- Continued home Acamprosate 333 mg PO TID 

# Dyslipidemia: 
- Continued home atorvastatin 40 mg PO QHS 

# Depression: 
- Continued home escitalopram 20 mg PO daily, consider 
decreasing
dose given QTc 
- Continued mirtazapine 30 mg PO QHS 

# DMII
- Held home metformin and replace with Humalog sliding scale. 
- Continued home metformin on discharge. 

# Chronic pain 
- Held home oxycodone and gabapentin while encephalopathic 
- Resumed home oxycodone and gabapentin on ___ 

# BPH 
- Continued home Tamsulosin 0.4 mg PO QHS 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
2. Magnesium Oxide 400 mg PO BID 
3. Gabapentin 300 mg PO BID 
4. Mirtazapine 30 mg PO QHS 
5. Fish Oil (Omega 3) 1000 mg PO DAILY 
6. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB, cough 
7. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
8. Acamprosate 333 mg PO TID 
9. Atorvastatin 40 mg PO QPM 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Furosemide 40 mg PO DAILY 
12. Spironolactone 75 mg PO DAILY 
13. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
14. Pantoprazole 40 mg PO Q24H 
15. rifAXIMin 550 mg PO BID 
16. Tamsulosin 0.4 mg PO QHS 
17. Escitalopram Oxalate 20 mg PO DAILY 
18. TraZODone 50 mg PO QHS 
19. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
20. FoLIC Acid 1 mg PO DAILY 
21. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Lactulose 30 mL PO Q4H 
RX *lactulose [Constulose] 10 gram/15 mL 30 ml by mouth three 
times a day Refills:*0 
2.  Acamprosate 333 mg PO TID  
3.  Atorvastatin 40 mg PO QPM  
4.  Escitalopram Oxalate 20 mg PO DAILY  
5.  Ferrous Sulfate 325 mg PO DAILY  
6.  Fish Oil (Omega 3) 1000 mg PO DAILY  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Furosemide 40 mg PO DAILY  
9.  Gabapentin 300 mg PO BID  
10.  Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB, cough  
11.  Magnesium Oxide 400 mg PO BID  
12.  MetFORMIN XR (Glucophage XR) 500 mg PO BID 
Do Not Crush  
13.  Mirtazapine 30 mg PO QHS  
14.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line  
15.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate  
16.  Pantoprazole 40 mg PO Q24H  
17.  rifAXIMin 550 mg PO BID  
18.  Spironolactone 75 mg PO DAILY  
19.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY  
20.  Tamsulosin 0.4 mg PO QHS  
21.  Thiamine 100 mg PO DAILY  
22.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
#ERROR!
Hepatic encephalopathy 

Secondary diagnosis: 
#ERROR!
Alcoholic cirrhosis 
Dyslipidemia 
Depression 
Type II diabetes mellitus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because you were confused. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- Your confusion is likely due to accumulation of toxins 
(ammonia) produced by gut bacteria. Since you have liver 
cirrhosis, your liver is unable to clear these toxins. 
- You received lactulose while in the hospital with subsequent 
improvement in your confusion. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please take your medications and go to your follow up 
appointments as described in this discharge summary.  
- Please take lactulose at least three times a day, with goal of 
___ bowel movements per day. 
- Please weigh yourself daily. If you notice an increase in your 
weight of 2 lbs per day or 5 lbs per week, please contact your 
primary care physician. 
- If you experience any of the danger signs listed below, please 
call your primary care doctor or go to the emergency department 
immediately.  

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___